US04256764
20.0 g of trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofuran and 32.8 g of 2-(3-chlorophenyl)-3-benzyl-1,3-oxazolidine are held in 260 ml of absolute alcohol for 60 hours at 70° C. and subsequently the solvent and excess of 2-(3-chlorophenyl)-3-benzyl-1,3-oxazolidine are removed, finally in vacuum. After purification by means of a chromatographic column there is obtained 9.8 g of N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenyl-(3-chlorophenyl)-methyl)-N-(2-hydroxyethyl)-N-benzylamin, a bright yellow oil.

reactant | trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofuran | 20.0 g | OC1=C(C=C(C=C1)[C@@H]1OC2=C([C@H]1C)C=C(C=C2OC)\C=C\C)OC | C20H22O4
reactant | 2-(3-chlorophenyl)-3-benzyl-1,3-oxazolidine | 32.8 g | ClC=1C=C(C=CC1)C1OCCN1CC1=CC=CC=C1 | C16H16ClNO
product | N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxyphenyl-(3-chlorophenyl)-methyl)-N-(2-hydroxyethyl)-N-benzylamin | 9.8 g | COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(C2)C(N(CC2=CC=CC=C2)CCO)C2=CC(=CC=C2)Cl)O)OC)C)\C=C\C | C36H38ClNO5
